US07649002B2
Methyl (3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylate
To a solution of methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate, from preparation 31 (500 mg, 2.07 mmol) and formaldehyde (155 μL, 2.07 mmol) in dichloromethane (20 mL) was added acetic acid (188 μL, 2.07 mmol) followed by sodium triacetoxyborohydride (659 mg, 3.11 mmol) at room temperature. The reaction mixture was stirred for 2 hours, diluted with dichloromethane (10 mL) and partitioned with saturated sodium hydrogen carbonate solution (40 mL). The phases were separated and the organic phase was washed with brine (20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product as a colourless oil, 288 mg (54%).

reactant | methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13F2NO2
reactant | formaldehyde | 2.07 mmol, 155 μL | C=O | CH2O
reactant | acetic acid | 2.07 mmol, 188 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.11 mmol, 659 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl (3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CN(C1)C)C(=O)OC | C13H15F2NO2
